US06166028
3-Dimethylamino-2-isocyano-acrylic acid ethyl ester
To a solution of ethyl isocyanoacetate (5.0 g) in ethanol (100 mL) is added N,N-dimethyl-formamide dimethyl acetal (6.5 g) dropwise with stirring over 10 minutes. The reaction is stirred for 24 hours and the ethanol is evaporated. The resulting oil is passed through magnesium silicate using 50% ethyl acetate-hexanes as the eluant. The solvents are removed and the resulting oil is crystallized from ethyl acetate-hexanes to yield light yellow needles, 3.0 g.

reactant | ethyl isocyanoacetate | 5.0 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | N,N-dimethyl-formamide dimethyl acetal | 6.5 g | COC(N(C)C)OC | C5H13NO2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-Dimethylamino-2-isocyano-acrylic acid ethyl ester | C(C)OC(C(=CN(C)C)[N+]#[C-])=O | C8H12N2O2
